US08106070B2
1-(4-{2,2,2-trifluoro-1-[(4-{[1-(trifluoromethyl)cyclopropyl]methyl}-1H-imidazol-2-yl)methyl]ethyl}-phenyl)-1H-pyrazole
In a 25-mL round-bottom flask, a mixture of 1-{4-[(Z)-1-(trifluoromethyl)-2-(4-{[1-(trifluoromethyl)cyclopropyl]methyl}-1H-imidazol-2-yl)vinyl]phenyl}-1H-pyrazole (52.8 mg, 0.124 mmol) and palladium on carbon (11.4 mg, 0.107 mmol) was suspended in ethanol (5 mL), and a hydrogen balloon was put on top of the flask. It was cooled to −78° C., degassed and saturated with hydrogen three times. The reaction is mostly complete 2 hours after operation. The reaction mixture was filtered through syringe filter to afford the title compound. LCMS (M+H) found: 429.

reactant | 1-{4-[(Z)-1-(trifluoromethyl)-2-(4-{[1-(trifluoromethyl)cyclopropyl]methyl}-1H-imidazol-2-yl)vinyl]phenyl}-1H-pyrazole | 0.124 mmol, 52.8 mg | FC(\C(=C/C=1NC=C(N1)CC1(CC1)C(F)(F)F)\C1=CC=C(C=C1)N1N=CC=C1)(F)F | C20H16F6N4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.107 mmol, 11.4 mg | [Pd] | Pd
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-(4-{2,2,2-trifluoro-1-[(4-{[1-(trifluoromethyl)cyclopropyl]methyl}-1H-imidazol-2-yl)methyl]ethyl}-phenyl)-1H-pyrazole | FC(C(CC=1NC=C(N1)CC1(CC1)C(F)(F)F)C1=CC=C(C=C1)N1N=CC=C1)(F)F | C20H18F6N4
